US08278441B2
N-(3-((4aS,7aS)-2-Benzamido-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-4-fluorophenyl)-5-fluoropicolinamide
A mixture of N-((4aS,7aS)-7a-(5-amino-2-fluorophenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-yl)benzamide (20.4 g, 51.8 mmol), 5-fluoropicolinic acid (8.77 g, 62.2 mmol), 1-hydroxybenzotriazole hydrate (10.3 g, 67.4 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (13.2 g, 67.4 mmol) in a mixture of dichloromethane (345 mL) and DMF (6.5 mL) is stirred at 22° C. for 80 min. A solution of 2 M sodium hydroxide (129.5 mL, 259 mmol) is added and the stirring is continued for 10 min. The mixture is separated and the aqueous phase is extracted with twice with dichloromethane (2×100 mL). The organic layer is concentrated under reduced pressure and the residue is diluted with ethyl acetate (200 mL). The organic layer is washed with cooled water (2×50 mL), brine (50 mL) and filtered through a short pad of silica using 100% ethyl acetate to give title compound (23.8 g, 79%). ES/MS m/e: 495 (M+1).

reactant | N-((4aS,7aS)-7a-(5-amino-2-fluorophenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-yl)benzamide | 51.8 mmol, 20.4 g | NC=1C=CC(=C(C1)[C@@]12N=C(SC[C@@H]1COC2)NC(C2=CC=CC=C2)=O)F | C19H18FN3O2S
reactant | 5-fluoropicolinic acid | 62.2 mmol, 8.77 g | FC=1C=CC(=NC1)C(=O)O | C6H4FNO2
reactant | 1-hydroxybenzotriazole hydrate | 67.4 mmol, 10.3 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 67.4 mmol, 13.2 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydroxide | 259 mmol, 2 M, 129.5 mL | [OH-].[Na+]
solvent | dichloromethane | 345 mL | ClCCl | CH2Cl2
solvent | DMF | 6.5 mL | CN(C)C=O | C3H7NO
product | N-(3-((4aS,7aS)-2-Benzamido-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-4-fluorophenyl)-5-fluoropicolinamide | 23.8 g, 79% | C(C1=CC=CC=C1)(=O)NC=1SC[C@H]2[C@@](N1)(COC2)C=2C=C(C=CC2F)NC(C2=NC=C(C=C2)F)=O | C25H20F2N4O3S
